US07981903B2
A solution of 6-(methyloxy)-7-nitro-3,4-dihydro-1(2H)-isoquinolinone (7 g, 31.5 mmol) in THF (800 mL) was treated with 2M BH3 in THF(78.8 mL, 157.6 mmol) and heated to reflux for 20 h. Methanol (100 mL) was added and the solution was concentrated under reduced pressure. The resulting residue was heated with 2N HCl for 3 hr., cooled, basified via careful addition of aqueous ammonium hydroxide, and extracted with dichloromethane. The organic layer was dried, filtered, and taken to a residue under reduced pressure to afford 6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline (5.5 g crude, 84.5% pure).

reactant | 6-(methyloxy)-7-nitro-3,4-dihydro-1(2H)-isoquinolinone | 31.5 mmol, 7 g | COC=1C=C2CCNC(C2=CC1[N+](=O)[O-])=O | C10H10N2O4
reactant | Methanol | 100 mL | CO | CH4O
solvent | THF | 800 mL | C1CCOC1 | C4H8O
solvent | THF | 157.6 mmol, 78.8 mL | C1CCOC1 | C4H8O
product | 6-(methyloxy)-7-nitro-1,2,3,4-tetrahydroisoquinoline | 5.5 g, 84.5% | COC=1C=C2CCNCC2=CC1[N+](=O)[O-] | C10H12N2O3
